US07871998B2
N-{[4-((2R,3R)-1-(4-chlorophenyl)-3-{[2-(4-chlorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-D-lysine
N-{[4-((2R,3R)-1-(4-Chlorophenyl)-3-{[2-(4-chlorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (14.6 mg, 0.026 mmol) and N-methylmorpholine (20 μl, 0.18 mmol) were dissolved in DCM (2 ml). tert-Butyl ff-(tert-butoxycarbonyl)-D-lysinate hydrochloride (11.1 mg, 0.033 mmol) was added and after 5 minutes TBTU (9.8 mg, 0.031 mmol) was added to the suspension. The mixture was stirred overnight. Additional tert-butyl N6-(tert-butoxycarbonyl)-D-lysinate (4.8 mg, 0.014 mmol), N-methylmorpholine (10 μl, 91 μmol) and TBTU (4.6 mg, 0.014 mmol) were added and the mixture was stirred for 2.5 h. The formation of the ester was confirmed. M/z: 855.4 (M−H). DCM (3 ml) and water (5 ml) were added and the solution was acidified to pH 3 with KHSO4 (2M). The organic phase was washed with water (2×5 ml). The combined water phases were extracted with DCM (2×5 ml). The organic phase was dried over Na2SO4, filtered and concentrated under reduced pressure. The oily residue was dissolved in DCM (1.5 ml) and TFA (1 ml) was added. The mixture was stirred for 2.5 h. The mixture was concentrated and co-evaporation with toluene was performed to assist the removal of TFA. The residue was dissolved in methanol (2 ml) and sodium borohydride (10.4 mg, 0.027 mmol) was added. After 15 minutes, ammonium acetate buffer (0.1M, 1.5 ml) was added and the solvent was removed under reduced pressure. The residue was purified with preparative HPLC on a C8 column. A gradient from 20% to 50% MeCN in 0.1M ammonium acetate buffer was used as eluent. After lyophilisation, the title compound was obtained as a white solid (10.8 mg, 59%). H-NMR (400 MHz, DMSO-d6): 1.18-1.36 (m, 2H), 1.41-1.70 (m, 4H), 2.71 (t, 2H), 2.84-2.97 (m, 2H), 3.72-3.75 (brd, 2H), 3.93 (m, 1H), 4.30 (d, 0.5H), 4.34 (d, 0.5H), 4.52 (s, 2H), 4.68-4.77 (m, 1H), 5.03 (d, 0.5H), 5.07 (d, 0.5H), 6.98 (d, 2H), 7.20 (d, 2H), 7.31-7.38 (m, 8H), 7.63-7.72 (m, 1H), 8.34 (t, 1H). M/z: 705.1.

reactant | N-{[4-((2R,3R)-1-(4-Chlorophenyl)-3-{[2-(4-chlorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.026 mmol, 14.6 mg | ClC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)Cl)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C27H22Cl2N2O6S
reactant | N-methylmorpholine | 0.18 mmol, 20 μl | CN1CCOCC1 | C5H11NO
reactant | (tert-butoxycarbonyl)-D-lysinate hydrochloride | 0.033 mmol, 11.1 mg | Cl.C(C)(C)(C)OC(=O)N[C@H](CCCCN)C(=O)O
reactant | TBTU | 0.031 mmol, 9.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | tert-butyl N6-(tert-butoxycarbonyl)-D-lysinate | 0.014 mmol, 4.8 mg | C(C)(C)(C)OC(=O)NCCCC[C@@H](N)C(=O)OC(C)(C)C | C15H30N2O4
reactant | N-methylmorpholine | 91 μmol, 10 μl | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.014 mmol, 4.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | KHSO4 | 2M | OS(=O)(=O)[O-].[K+]
reactant | sodium borohydride | 0.027 mmol, 10.4 mg | [BH4-].[Na+]
reactant | ammonium acetate | 0.1M, 1.5 ml | C(C)(=O)[O-].[NH4+]
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | N-{[4-((2R,3R)-1-(4-chlorophenyl)-3-{[2-(4-chlorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-D-lysine | ClC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)Cl)C1=CC=C(OCC(=O)NCC(=O)N[C@H](CCCCN)C(=O)O)C=C1 | C33H36Cl2N4O7S
